US08809382B2
Step 4 (5-(3-Hexyl-1-methyl-1H-indol-2-yl)-5-oxo-pentanoic acid methyl ester)
To a solution of 3-hexyl-1-methyl-1H-indole in methylene chloride at 0° C. was added dimethyl aluminum chloride solution in hexane. The reaction mixture was stirred for 30 minutes. To this solution 4-chlorocarbonyl-butyric acid methyl ester was added at 0 ° C. and the reaction mixture was stirred for 3 hours. The reaction was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 3-hexyl-1-methyl-1H-indole | C(CCCCC)C1=CN(C2=CC=CC=C12)C | C15H21N
reactant | dimethyl aluminum chloride | [Cl-].C[Al+]C
reactant | 4-chlorocarbonyl-butyric acid methyl ester | COC(CCCC(=O)Cl)=O | C6H9ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-Hexyl-1-methyl-1H-indol-2-yl)-5-oxo-pentanoic acid methyl ester | COC(CCCC(=O)C=1N(C2=CC=CC=C2C1CCCCCC)C)=O | C21H29NO3
